US07129245B2
F. 2-[(1-Boc-piperidin-4-ylcarbonyl)amino]-N-(5-chloropyridin-2-yl)-5-(N,N-dimethylaminosulfonyl)benzamide
Using methods substantially equivalent to those described in Example 51-D, 2-[(1-Boc-piperidin-4-ylcarbonyl)amino]-N-(5-chloropyridin-2-yl)-5-(N,N-dimethylaminosulfonylbenzamide (0.912 g, 85%) was prepared from 2-(1-Boc-piperidin-4-yl)-6-(N,N-dimethylaminosulfonyl)-4H-3,1-benzoxazin-4-one and 2-amino-5-chloropyridine.

reactant | N,N-dimethylaminosulfonylbenzamide | 0.912 g | CNS(=O)(=O)N(C(C1=CC=CC=C1)=O)S(=O)(=O)NC | C9H13N3O5S2
reactant | 2-(1-Boc-piperidin-4-yl)-6-(N,N-dimethylaminosulfonyl)-4H-3,1-benzoxazin-4-one | C(=O)(OC(C)(C)C)N1CCC(CC1)C1=NC2=C(C(O1)=O)C=C(C=C2)S(=O)(=O)N(C)C | C20H27N3O6S
reactant | 2-amino-5-chloropyridine | NC1=NC=C(C=C1)Cl | C5H5ClN2
product | 2-[(1-Boc-piperidin-4-ylcarbonyl)amino]-N-(5-chloropyridin-2-yl)-5-(N,N-dimethylaminosulfonyl)benzamide | C(=O)(OC(C)(C)C)N1CCC(CC1)C(=O)NC1=C(C(=O)NC2=NC=C(C=C2)Cl)C=C(C=C1)S(=O)(=O)N(C)C | C25H32ClN5O6S
